US07723329B2
A solution of toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-ethyl ester (0.382 g, 0.731 mmol) in 2.0 M dimethylamine in THF (8 mL, 16 mmol) was stirred for 4 hours at 70° C. in a sealed tube. After cooling to ambient temperature, the reaction mixture was concentrated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed with water and brine, dried with anhydrous magnesium sulfate, filtered and concentrated. Drying at 80° C. for 20 minutes in vacuo yielded dimethyl-{2-[3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-ethyl}-amine as a light yellow solid (0.212 g, 73.4%). Methanol, chloroform and etheric hydrochloride were added. The resulting solution was concentrated and dried for 15 hours at 78° C. in vacuo. The hydrochloride as a buff foam (0.217 g) was obtained. Mass Spectrum (+EI, [M+H]+) m/z 396. 1HNMR (500 MHz, DMSO-d6): δ14.20 (s, 1H), 10.05 (s, 1H), 8.74-8.77 (m, 1H), 8.52 (dd, 1H, J=7.44 Hz and 1.22 Hz), 8.27 (d, 1H, J=8.17 Hz), 8.03-8.05 (m, 1H), 7.70-7.74 (m, 1H), 7.56-7.65 (m, 3H), 7.37 (d, 1H, J=2.20 Hz), 7.15-7.18 (m, 1H), 4.37-4.39 (m, 2H), 3.51 (t, 2H, J=4.76 Hz), 2.83 ppm (s, 6H). Elemental Analysis for C21H21N3O3S.1.00 mol HCl.0.70 mol H2O: Calcd: C, 56.74; H, 5.31; N, 9.45; Found: C, 56.72; H, 5.33; N, 9.06.

reactant | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-ethyl ester | 0.731 mmol, 0.382 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C26H22N2O6S2
reactant | THF | 16 mmol, 8 mL | C1CCOC1 | C4H8O
reactant | dimethylamine | 2.0 M | CNC | C2H7N
product | dimethyl-{2-[3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-ethyl}-amine | 0.212 g, 73.4% | CN(CCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)C | C21H21N3O3S
